US08076360B2
To a stirred solution of 40 mg (0.10 mmol) of (5-chloro-1H-indol-2-yl)-[4-(2,6-dimethoxy-phenyl)-piperidin-1-yl]-methanone in DMF (3 ml) at RT was added 5 mg (0.11 mmol) of NaH (in oil, 55%). After 20 minutes, 8 mg (0.10 mmol) of chloro-acetonitrile was added and stirring was continued over night. The reaction mixture was concentrated in vacuo and purification by preparative HPLC (30% CH3CN/H2O) afforded 9 mg (18%) of {5-chloro-2-[4-(2,6-dimethoxy-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-acetonitrile as a white solid.

reactant | (5-chloro-1H-indol-2-yl)-[4-(2,6-dimethoxy-phenyl)-piperidin-1-yl]-methanone | 0.10 mmol, 40 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)N1CCC(CC1)C1=C(C=CC=C1OC)OC | C22H23ClN2O3
reactant | NaH | 0.11 mmol, 5 mg | [H-].[Na+]
reactant | chloro-acetonitrile | 0.10 mmol, 8 mg | ClCC#N | C2H2ClN
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | {5-chloro-2-[4-(2,6-dimethoxy-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-acetonitrile | 9 mg, 18% | ClC=1C=C2C=C(N(C2=CC1)CC#N)C(=O)N1CCC(CC1)C1=C(C=CC=C1OC)OC | C24H24ClN3O3
